US07667041B2
Synthesis of (E)-3-(4-methoxy-5-nitropyrimidin-2-yl)acrylic acid ethyl ester
A solution of 4-methoxy-5-nitro-2-vinylpyrimidine (260 mg) in methylene chloride (15 mL) was stirred with an ozone stream of bubbling at −50° C. for 1 hr. After the reaction mixture was warmed to −20° C., the ozone stream was stopped and dimethyl sulfide (1.06 mL) was added to the reaction mixture. The reaction mixture was gradually warmed up to room temperature with stirring for 30 min. The reaction mixture was concentrated under reduced pressure to obtain the corresponding crude aldehyde. To a solution of the crude aldehyde and triethyl phosphonoacetate (0.432 mL) in THF (5 mL) was added lithium hydroxide monohydrate (90.6 mg) at 0° C. After stirring for 1.5 hr at room temperature, water and ethyl acetate was added to the reaction mixture and an organic layer was separated. The obtained organic layer was sequentially washed with water and saturated saline solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluting solvent:heptane/ethyl acetate) to give the title compound (100 mg). The physical data of the title compound was described as below.

reactant | 4-methoxy-5-nitro-2-vinylpyrimidine | 260 mg | COC1=NC(=NC=C1[N+](=O)[O-])C=C | C7H7N3O3
reactant | ozone | O=[O+][O-] | O3
reactant | lithium hydroxide monohydrate | 90.6 mg | O.[OH-].[Li+]
reactant | water | O | H2O
reactant | THF | 5 mL | C1CCOC1 | C4H8O
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-3-(4-methoxy-5-nitropyrimidin-2-yl)acrylic acid ethyl ester | 100 mg | C(C)OC(\C=C\C1=NC=C(C(=N1)OC)[N+](=O)[O-])=O | C10H11N3O5
